US06455548B2
3-(SR)-Hydroxymethyl-4-(RS)-(3-thienyl)pyrrolidine
A mixture of 3.5 g (15.7 mmol) of 1-allyl-3-(SR)-hydroxymethyl-4-(RS)-(3-thienyl)pyrrolidine and 400 mg (0.43 mmol) of Wilkinson's catalyst [Rh(PPh3)3Cl] in 200 mL of an 85% solution of CH3CN and water was heated to 90° C. and stirred for 3 h. The reaction mixture was cooled to rt and concentrated to give the title compound which was used without further purification.

reactant | 1-allyl-3-(SR)-hydroxymethyl-4-(RS)-(3-thienyl)pyrrolidine | 15.7 mmol, 3.5 g | C(C=C)N1CC(C(C1)C1=CSC=C1)CO | C12H17NOS
reactant | CH3CN | CC#N | C2H3N
catalyst | Wilkinson's catalyst | 0.43 mmol, 400 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | water | O | H2O
product | 3-(SR)-Hydroxymethyl-4-(RS)-(3-thienyl)pyrrolidine | OCC1CNCC1C1=CSC=C1 | C9H13NOS
